US07906599B2
1-Bromo-4-t-butylbenzene (18 mL, 104 mmol) was dissolved in diethyl ether (100 mL) and added dropwise at −30° C. with a solution (66 mL, 104 mmol, 1.57 N) of n-butyllithium in hexane. The resultant solution was warmed to room temperature, stirred night and day and added dropwise at −20° C. to a solution of 3-methyl-2-cyclopentanone (10 g, 104 mmol) in diethyl ether (10 mL). Immediately after dropwise addition, the solution was warmed to room temperature and stirred for 3 hours. After termination of the reaction, the reaction solution was added with dilute hydrochloric acid and subjected to layer separation. The organic layer was dried with magnesium sulfate and then had the solvent distilled off under reduced pressure. The crude product was distilled under reduced pressure (105 to 115° C./0.16 mmHg) to obtain 1-methyl-3-(4-t-butylphenyl)-cyclopentadiene (15.3 g, yield: 69%).

reactant | 1-Bromo-4-t-butylbenzene | 104 mmol, 18 mL | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | n-butyllithium | 104 mmol, 1.57 N, 66 mL | C(CCC)[Li]
reactant | 3-methyl-2-cyclopentanone | 104 mmol, 10 g | CC1C(CCC1)=O | C6H10O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-methyl-3-(4-t-butylphenyl)-cyclopentadiene | 15.3 g, yield: 69% | CC1=CC(=CC1)C1=CC=C(C=C1)C(C)(C)C | C16H20
